US07405221B2
2-Methylthio-5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)pyrimidine from Reference Example 3 was reacted with cyclohexylmethanol according to the procedure described in Example 59 to afford 2-(cyclohexylmethoxy)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine (HRf): HPLC/MS: m/e=447 (M++1); Rt=5.17 min; 1H-NMR 400 MHz (CDCl3): δ 1.02-1.20 (m, 2H), 1.20-1.40 (m, 4H), 1.64-1.80 (m, 3H), 1.81-1.98 (m, 2H), 4.23 (d, J=9 Hz, 2H), 7.01 (d, J=9 Hz, 2H), 7.22-7.30 (m, 4H), 7.38 (d, J=2 Hz,1H), 8.58 (s, 1H).

reactant | 2-Methylthio-5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)pyrimidine | CSC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C17H11Cl3N2S
reactant | cyclohexylmethanol | C1(CCCCC1)CO | C7H14O
product | 2-(cyclohexylmethoxy)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine | C1(CCCCC1)COC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C23H21Cl3N2O
